US07932410B2
The Grignard solution is then added to a mixture of 1-penten-3-yl isobutyrate ester (84 g, 0.538 mol) and LiCuBr2 reagent (1 M/THF, 63 mL) at a rate that maintains the reaction temperature between 25-30° C., with cooling as necessary. The mixture is stirred for 15 minutes then quenched with aqueous citric acid solution (1 L). The layers are separated and the organic portion is washed with water (2×) and dilute sodium hydroxide solution (until pH basic). The crude organic portion is then stripped of solvent and distilled to afford 98.1 g of the 11E-tetradecenal DEA product (b.p. 150° C., 0.1 mm Hg, Yld. 64%, m/z 284), which is subsequently deprotected using formic acid in heptane at room temperature to give 11-tetradecenal (67.3 g, Yld. 67%, E/Z 83:17).

reactant | formic acid | C(=O)O | CH2O2
reactant | heptane | CCCCCCC | C7H16
product | 11-tetradecenal | 67.3 g, 67% | C(CCCCCCCCCC=CCC)=O | C14H26O
